US05889024
1-[3-(3,4-Dichlorophenyl)-4-(5-phenyltetrazol-1-yl)butyl]-4-hydroxy-4-phenylpiperidine.
3-(3,4-Dichlorophenyl)-4-(5-phenyltetrazol-1-yl)butyraldehyde (0.200 g) in methanol (1 mL) and dichloromethane (1 mL) was added to a solution of 4-hydroxy-4-phenylpiperidine (0.147 g) and acetic acid (0.047 mL) in methanol (1 mL). After 2 minutes, sodium cyanoborohydride (52 mg) in methanol (1 mL) was added in a single portion. After being stirred overnight, the reaction mixture was diluted with aqueous sodium bicarbonate, stirred for 30 minutes, and extracted with dichloromethane. The organic extracts were dried and evaporated. The crude product was suspended in methanol/ether and filtered to give the title compound as a white solid (0.13 g); NMR: 7.57 (m,5), 7.44 (m,2), 7.36-7.18 (m,5), 6.87 (dd,1, J=1.6, 8.2), 4.98 (dd,1, J=5.2, 14.3), 4.81 (dd,1, J=10.1, 14.2), 4.71 (s,1), 3.20 (m,1), 2.54 (m,1), 2.34-2.16 (m,3), 2.09 (m,2), 1.91 (m,1), 1.75 (m,3), 1.50 (m,2); MS; m/z=522(M+1). Analysis for C28H29Cl2N5O: Calculated: C, 64.37; H, 5.59; N, 13.40; Found: C, 64.10; H, 5.56; N, 13.28.

reactant | 3-(3,4-Dichlorophenyl)-4-(5-phenyltetrazol-1-yl)butyraldehyde | 0.200 g | ClC=1C=C(C=CC1Cl)C(CC=O)CN1N=NN=C1C1=CC=CC=C1 | C17H14Cl2N4O
reactant | 4-hydroxy-4-phenylpiperidine | 0.147 g | OC1(CCNCC1)C1=CC=CC=C1 | C11H15NO
reactant | acetic acid | 0.047 mL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 52 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 1 mL | CO | CH4O
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | methanol | 1 mL | CO | CH4O
solvent | methanol | 1 mL | CO | CH4O
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 1-[3-(3,4-Dichlorophenyl)-4-(5-phenyltetrazol-1-yl)butyl]-4-hydroxy-4-phenylpiperidine | 0.13 g | ClC=1C=C(C=CC1Cl)C(CCN1CCC(CC1)(C1=CC=CC=C1)O)CN1N=NN=C1C1=CC=CC=C1 | C28H29Cl2N5O
